### PR TITLE
feat(ErdosProblems): 700

### LINKED ISSUE #888: Erdős Problem 700
### What is the conjecture
    
https://www.erdosproblems.com/700

  Let 
$$f(n)=\min_{1<k\leq n/2}\textrm{gcd}\left(n,\binom{n}{k}\right).$$

Characterise those composite $n$ such that $f(n)=n/P(n)$, where $P(n)$ is the largest prime dividing $n$.
Are there infinitely many composite $n$ such that $f(n)>n^{1/2}$?
 Is it true that, for every composite $n$,
$$f(n) \ll_A \frac{n}{(\log n)^A}$$
for every $A>0$?

  

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by AlperTheKing**
fixes #888 

Formalises Erdős Problem #700 (Erdős–Szekeres 1978), on f(n) = min_{1 < k ≤ n/2} gcd(n, C(n,k)):

- (a) characterise composite n with f(n) = n/P(n)   [open]
- (b) infinitely many composite n with f(n) > √n?   [open]
- (c) f(n) ≪_A n/(log n)^A for every A > 0?          [open]

Includes Lean proofs of two partial results recorded in [ErSz78]:
- f(p^a) = p for a ≥ 2 (so p^a is a "hit" iff a = 2);
- f(pq) = p for distinct primes p < q (pq always a "hit"), via Lucas' theorem (Choose.choose_modEq_choose_mod_mul_choose_div_nat). Both are sorry-free with axioms [propext, Classical.choice, Quot.sound]. The sequence f is OEIS A091963 (cf. Guy, Unsolved Problems, B31/B33).

### CODE REVIEW

File: FormalConjectures/ErdosProblems/700.lean [hunk 1]
```diff
@@ -0,0 +1,237 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/700.lean]: 2026

File: FormalConjectures/ErdosProblems/700.lean [hunk 2]
```diff
@@ -0,0 +1,237 @@
...
+private lemma f_mem (n k : ℕ) (h1 : 1 < k) (h2 : k ≤ n / 2) :
+    Nat.gcd n (n.choose k) ∈ fSet n := ⟨k, h1, h2, rfl⟩
+
+private lemma f_le (n k : ℕ) (h1 : 1 < k) (h2 : k ≤ n / 2) :
+    f n ≤ Nat.gcd n (n.choose k) := Nat.sInf_le (f_mem n k h1 h2)
+
+/-- **(a)** Characterise those composite `n` with `f(n) = n / P(n)`. The characterisation itself
+is open; we state it as the (unknown) predicate that is equivalent to being such an `n`. -/
+@[category research open, AMS 11]
+theorem erdos_700.a (n : ℕ) (hn : ¬ n.Prime) (hn1 : 1 < n) :
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/700.lean]: For multiple parts of an main Erdos problem, can you use the theorem name in the format of `erdos_700.parts.i`

File: FormalConjectures/ErdosProblems/700.lean [hunk 3]
```diff
@@ -0,0 +1,237 @@
...
+    f n = n / P n ↔ answer(sorry) := by
+  sorry
+
+/-- **(b)** There are infinitely many composite `n` such that `f(n) > n^{1/2}`, equivalently
+`f(n)^2 > n`. -/
+@[category research open, AMS 11]
+theorem erdos_700.b : {n : ℕ | ¬ n.Prime ∧ 1 < n ∧ (f n) ^ 2 > n}.Infinite := by
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/700.lean]: `erdos_700.parts.ii`

File: FormalConjectures/ErdosProblems/700.lean [hunk 4]
```diff
@@ -0,0 +1,237 @@
...
+  sorry
+
+/-- **(c)** For every `A > 0`, `f(n) ≪_A n / (log n)^A` over all composite `n`: there is a constant
+`C` (depending on `A`) with `f(n) ≤ C · n / (log n)^A` for every composite `n`. -/
+@[category research open, AMS 11]
+theorem erdos_700.c :
```
Comment (danielchin) [inline FormalConjectures/ErdosProblems/700.lean]: `erdos_700.parts.iii`

**Review by danielchin — CHANGES_REQUESTED** [review]

**Comment by AlperTheKing** [comment]
Thanks for the review, @danielchin! Addressed all four comments:

- Copyright header updated to 2026.
- Renamed the three problem parts to `erdos_700.parts.i` / `erdos_700.parts.ii` / `erdos_700.parts.iii`, matching the multi-part naming convention.

Force-pushed; the file still compiles cleanly with only the three expected `sorry`s on the open parts (a)/(b)/(c). The two proven partial results (`erdos_700.variants.prime_pow`, `erdos_700.variants.prime_mul`) remain sorry-free.

File: FormalConjectures/ErdosProblems/700.lean [hunk 5]
```diff
@@ -0,0 +1,244 @@
...
+@[category research open, AMS 11]
+theorem erdos_700.parts.ii : {n : ℕ | ¬ n.Prime ∧ 1 < n ∧ (f n) ^ 2 > n}.Infinite := by
+  sorry
+
+/-- **(c)** For every `A > 0`, `f(n) ≪_A n / (log n)^A` over all composite `n`: there is a constant
+`C` (depending on `A`) with `f(n) ≤ C · n / (log n)^A` for every composite `n`. -/
+@[category research open, AMS 11]
+theorem erdos_700.parts.iii :
+    (∀ A : ℝ, 0 < A → ∃ C : ℝ, 0 < C ∧ ∀ n : ℕ, ¬ n.Prime → 1 < n →
+      (f n : ℝ) ≤ C * (n : ℝ) / (Real.log n) ^ A) ↔ answer(sorry) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/700.lean]:
```suggestion
    answer(sorry) ↔ (∀ A : ℝ, 0 < A → ∃ C : ℝ, 0 < C ∧ ∀ n : ℕ, ¬ n.Prime → 1 < n →
      (f n : ℝ) ≤ C * (n : ℝ) / (Real.log n) ^ A := by
```

File: FormalConjectures/ErdosProblems/700.lean [hunk 6]
```diff
@@ -0,0 +1,244 @@
...
+* **(b)** Are there infinitely many composite $n$ such that $f(n) > n^{1/2}$?
+* **(c)** Is it true that, for every composite $n$, $f(n) \ll_A n / (\log n)^A$ for every $A > 0$?
+
+This is a problem of Erdős and Szekeres [ErSz78], who introduce `f`, record the facts
+`f(p^a) = p` and `f(pq) = p` (formalised below as `erdos_700.variants.prime_pow` and
+`erdos_700.variants.prime_mul`), compute e.g. `f(30) = 6`, note strict examples such as
+`30, 70, 154`, remark that they cannot prove there are infinitely many composite `n` with
+`f(n) > n^{1/2}` (part (b)), and prove the bound `f(n) ≤ (1 + o(1)) n / \log n`. The sequence
+`f` is [OEIS A091963](https://oeis.org/A091963) (see also Guy, *Unsolved Problems in Number
+Theory*, B31, B33). All three parts are recorded as open on erdosproblems.com.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/700.lean]: let;s not duplicate this text here in the docstring but rather to the individual theorems.

File: FormalConjectures/ErdosProblems/700.lean [hunk 7]
```diff
@@ -0,0 +1,244 @@
...
+@[category research open, AMS 11]
+theorem erdos_700.parts.i (n : ℕ) (hn : ¬ n.Prime) (hn1 : 1 < n) :
+    f n = n / P n ↔ answer(sorry) := by
+  sorry
+
+/-- **(b)** There are infinitely many composite `n` such that `f(n) > n^{1/2}`, equivalently
+`f(n)^2 > n`. -/
+@[category research open, AMS 11]
+theorem erdos_700.parts.ii : {n : ℕ | ¬ n.Prime ∧ 1 < n ∧ (f n) ^ 2 > n}.Infinite := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/700.lean]: this is also a question in the verbatim version on erdosproblems.com. Let's cite it verbartim and add answer(sorry)

**Review by mo271 — COMMENTED** [review]
Thanks, this looks good matheamtically! 
Added a few remarks. 
Also: Make sure to use latex markdown instead of backticks in docstrings throughout

**Comment by Smetalo** [comment]
Just a reminder that this resolves #888...

File: FormalConjectures/ErdosProblems/700.lean (hunk 6 above)
Comment (AlperTheKing) [reply FormalConjectures/ErdosProblems/700.lean]: Done in 0084f7c: trimmed the module docstring to the title plus references, and moved the per-part descriptions onto the individual theorems (following the `erdos_1054` layout).

File: FormalConjectures/ErdosProblems/700.lean (hunk 7 above)
Comment (AlperTheKing) [reply FormalConjectures/ErdosProblems/700.lean]: Done in 0084f7c: cited the question verbatim ("Are there infinitely many composite $n$ such that $f(n) > n^{1/2}$?") and stated it as `answer(sorry) ↔ {...}.Infinite`.

File: FormalConjectures/ErdosProblems/700.lean (hunk 5 above)
Comment (AlperTheKing) [reply FormalConjectures/ErdosProblems/700.lean]: Done in 0084f7c: moved `answer(sorry)` to the left of the iff (with the parentheses kept balanced).

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!

**Comment by mo271** [comment]
Thanks again @AlperTheKing and also thanks to @danielchin for the review: I think all of your requested changes are adressed?
